US07435837B2
(±)-{[7-(2,5-dichlorophenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.061 g, 56%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-{[7-(2,5-dichlorophenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}4-methylbenzenesulfonate (0.139 g, 0.29 mmol) and methylamine (0.090 g, 2.9 mmol). mp 179-181° C.

reactant | (±)-{[7-(2,5-dichlorophenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}4-methylbenzenesulfonate | 0.29 mmol, 0.139 g | ClC1=C(C=C(C=C1)Cl)C1=CC(=CC=2CC(OC21)COS(=O)(=O)C2=CC=C(C=C2)C)OC | C23H20Cl2O5S
reactant | methylamine | 2.9 mmol, 0.090 g | CN | CH5N
product | (±)-{[7-(2,5-dichlorophenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | ClC1=C(C=C(C=C1)Cl)C1=CC(=CC=2CC(OC21)CNC)OC | C17H17Cl2NO2
